US05147645
at 20°-25° C., a solution of 125.8 g of ethyl 2-ethoxy-3-methylbenzoate is dripped into 24.3 g of lithiumaluminum hydride in 500 ml of absolute THF. The mixture is stirred for 15 hours at room temperature, ice water is dripped in, and the mixture is acidified with concentrated hydrochloric acid and extracted with ether. The combined organic phases are washed with water, dried and concentrated. There is obtained 97.1 g of 2-ethoxy-3-methylbenzyl alcohol.

reactant | ethyl 2-ethoxy-3-methylbenzoate | 125.8 g | C(C)OC1=C(C(=O)OCC)C=CC=C1C | C12H16O3
reactant | lithiumaluminum hydride | 24.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 2-ethoxy-3-methylbenzyl alcohol | 97.1 g | C(C)OC1=C(CO)C=CC=C1C | C10H14O2
